US04302464
F. 4-(2-amino-4-pyridyl)imidazole-2-thiol
To 720 mg. (31 mmoles) of sodium dissolved in 60 ml. of absolute ethanol at room temperature was added 4.59 g. (30.4 mmoles) of 1-(2-amino-4-pyridyl)-1-ethanone oxime, and the resulting mixture allowed to stir for about 5 minutes. To the resulting solution was added 6.10 g. (32 mmoles) of p-toluenesulfonyl chloride and the reaction mixture allowed to stir for 1 hour under a nitrogen atmosphere. The mixture was then added directly to a solution of potassium ethoxide (prepared by dissolving 1.41 g. of potassium in 30 ml. of ethanol) in ethanol and the reaction mixture allowed to stir under a nitrogen atmosphere at room temperature for 0.5 hour. The resulting gelatinous suspension was diluted with 800 ml. of diethyl ether, stirred at room temperature for 0.5 hour and filtered through celite. The filtrate was concentrated, and the residue taken up in 100 ml. of ether which was then extracted with 2 N hydrochloric acid (4×25 ml.). The combined acid extracts were concentrated to a yellow solid, which was dissolved in 60 ml. of water containing 5.83 g. (60 mmoles) of potassium thiocyanate. The resulting solution was heated at steam bath temperatures for 2 hours. On cooling a solid precipitated which was filtered and stirred in 40 ml. of a saturated sodium bicarbonate solution for 0.5 hour. The solids were filtered, washed with water and dried in vacuo to give 3.21 g. (55%) of the product as a yellow solid, m.p. 262°-264° C. The analytical sample was recrystallized from water.

reactant | sodium | 31 mmoles | [Na] | Na
reactant | 1-(2-amino-4-pyridyl)-1-ethanone oxime | 30.4 mmoles | NC1=NC=CC(=C1)C(C)=NO | C7H9N3O
reactant | p-toluenesulfonyl chloride | 32 mmoles | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | potassium ethoxide | 30 ml, 1.41 g | [O-]CC.[K+]
reactant | potassium thiocyanate | 60 mmoles | [S-]C#N.[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(2-amino-4-pyridyl)imidazole-2-thiol | NC1=NC=CC(=C1)C=1N=C(NC1)S | C8H8N4S
